US06228868B1
5-hydroxy-1-(2,2,2-trifluoroethyl)indole
A solution of 5-benzyloxy-1-(2,2,2-trifluoroethyl)indole (1.56 g, 4.09 mmol) in dichloromethane (10 mL) at 0° C. was treated dropwise with 1M BBr3 in dichloromethane(5.73 mL, 5.73 mmol), stirred for 2 hours, transferred to 2:1:1 water/10% NaHCO3/brine (100 mL), and extracted with ethyl acetate (100 mL). The extract was washed with brine (40 mL), dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography with 9:1 hexane/ethyl acetate to provide 118 mg of the desired product.

reactant | 5-benzyloxy-1-(2,2,2-trifluoroethyl)indole | 4.09 mmol, 1.56 g | C(C1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)CC(F)(F)F | C17H14F3NO
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
reactant | water | 100 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5.73 mmol, 5.73 mL | ClCCl | CH2Cl2
product | 5-hydroxy-1-(2,2,2-trifluoroethyl)indole | 118 mg | OC=1C=C2C=CN(C2=CC1)CC(F)(F)F | C10H8F3NO
